US08497376B2
a) Trifluoro-methanesulfonic acid1,5-bis-(tert-butyl-dimethyl-silanyloxymethyl)-8-oxa-bicyclo[3.2.1]octa-2,6-dien-3-yl ester
A solution of 1,5-bis-(tert-butyl-dimethyl-silanyloxymethyl)-8-oxa-bicyclo[3.2.1]oct-6-en-3-one (Lee, K. and Cha, J. K., J. Amer. Chem. Soc., 123: 5590-5591 (2001), 929 mg, 2.25 mmol) in 10 ml of THF was added to a solution of LHMDS (1.0 M in THF, 2.48 mL, 2.48 mmol) in 20 ml of THF at −78° C. under Ar. The mixture was warmed to RT and stirred for 0.5 h, then cooled to −78° C. again. A solution of 2-[N,N-bis(trifluoromethanesulfonyl)amino]pyridine (888 mg, 2.48 mmol) in 10 ml of THF was added. The resulting mixture was warmed to RT and stirred for 2 h under Ar. Treated with 10 mL of saturated aqueous NH4Cl followed by 100 ml of EtOAc, the mixture was washed with aqueous saturated citric acid (3×20 mL), H2O (20 mL), brine (10 mL) and dried (Na2SO4). Removal of the solvent under reduced pressure gave 1.22 g of the title compound as light yellow oil. 1H-NMR (CDCl3; 400 MHz): δ 6.42 (d, 1H, J=5.8 Hz), 6.29 (br s, 1H), 5.91 (d, 1H, J=5.8 Hz), 3.80 (s, 1H), 2.81 (dd, 2H, J=17.7, 1.9 Hz), 2.13 (dd, 1H, J=17.7, 1.3 Hz), 0.91 (s, 18H), 0.08 (s, 12H).

reactant | 1,5-bis-(tert-butyl-dimethyl-silanyloxymethyl)-8-oxa-bicyclo[3.2.1]oct-6-en-3-one | 2.25 mmol, 929 mg | C(C)(C)(C)[SiH2]OC(C12CC(CC(C=C1)(O2)C(O[SiH2]C(C)(C)C)(C)C)=O)(C)C | C21H40O4Si2
reactant | LHMDS | 2.48 mmol, 1.0 M, 2.48 mL | [Li+].C[Si](C)(C)[N-][Si](C)(C)C
reactant | 2-[N,N-bis(trifluoromethanesulfonyl)amino]pyridine | 2.48 mmol, 888 mg | FC(S(=O)(=O)N(S(=O)(=O)C(F)(F)F)C1=NC=CC=C1)(F)F | C7H4F6N2O4S2
reactant | NH4Cl | 10 mL | [NH4+].[Cl-]
solvent | THF | 10 ml | C1CCOC1 | C4H8O
solvent | THF | 20 ml | C1CCOC1 | C4H8O
solvent | THF | 10 ml | C1CCOC1 | C4H8O
solvent | EtOAc | 100 ml | CCOC(=O)C | C4H8O2
product | Trifluoro-methanesulfonic acid1,5-bis-(tert-butyl-dimethyl-silanyloxymethyl)-8-oxa-bicyclo[3.2.1]octa-2,6-dien-3-yl ester | 1.22 g | C(C)(C)(C)[SiH2]OC(C12C=C(CC(C=C1)(O2)C(O[SiH2]C(C)(C)C)(C)C)OS(=O)(=O)C(F)(F)F)(C)C | C22H39F3O6SSi2
